* TPH3R70APL — Toshiba 100V N-channel MOSFET (SOP Advance, U-MOS-IX-H)
* Level 1 SPICE model built from verified datasheet parameters.
* Source: Toshiba TPH3R70APL datasheet, Rev 4.0.A (2026-04-14)
*
* Verified parameters (Ta=25°C unless noted):
*   V_DSS .................. 100 V
*   V_GSS .................. ±20 V
*   R_DS(on) typ @ 10V ..... 3.1 mΩ
*   V_GS(th) typ ........... 2.0 V (range 1.5–2.5)
*   Q_g typ @ 10V .......... 67 nC
*   Q_sw typ ............... 21 nC
*   C_iss typ .............. 4850 pF
*   C_rss typ .............. 29 pF (Crss = Cgd Miller)
*   C_oss typ .............. 640 pF
*   r_g internal typ ....... 2.1 Ω
*   Body diode V_F max ..... 1.2 V @ 90 A
*   Body diode t_rr typ .... 53 ns
*   Body diode Q_rr typ .... 74 nC
*
* Pin order: D G S
*
* Note on Level 1: captures conduction loss accurately, switching behavior
* approximately. Cgdo is constant in Level 1 — real Crss varies ~10× with
* Vds. Loss results within ~10–20% of vendor model expected.

.subckt TPH3R70APL D G S
* Internal gate resistor (datasheet typ 2.1Ω)
Rg G Gint 2.1
* MOSFET die
M1 D Gint S S TPH3R70APL_M
* Body diode (anti-parallel)
DBD S D TPH3R70APL_BD
.ends TPH3R70APL

.model TPH3R70APL_M NMOS
+ Level=1 Vto=2.0 Kp=200 Lambda=0.005
+ Rd=1.55m Rs=1.55m
+ Cgso=4.82n Cgdo=29p Cbd=611p Cbs=0
+ Is=1e-14 Pb=0.8

.model TPH3R70APL_BD D
+ Is=2e-9 N=1.2 Rs=11m Bv=100 Ibv=100u
+ Cjo=611p Vj=0.8 M=0.5 Tt=53n
